US04659721
(c) Preparation of 3-[2-Hydroxy-3-[3-(1-piperidylmethyl)benzyloxy]propylamino]-4-ethoxy-1,2,5-thiadiazole-1-oxide
A solution of 2.78 g (0.01 mol) of 2-hydroxy-3-[3-(1-piperidylmethyl)benzyloxy]propylamine in 10 ml of ethanol is added dropwise over a period of 30 minutes to a solution of 1.90 g (0.01 mol) of 3,4-diethoxy-1,2,5-thiadiazole-1-oxide in 10 ml of ethanol and the mixture is stirred at room temperature for 4 hours. The title compound obtained after concentration of the reaction solution by evaporation is reacted without further purification.

reactant | 2-hydroxy-3-[3-(1-piperidylmethyl)benzyloxy]propylamine | 0.01 mol, 2.78 g | OC(CN)COCC1=CC(=CC=C1)CN1CCCCC1 | C16H26N2O2
reactant | 3,4-diethoxy-1,2,5-thiadiazole-1-oxide | 0.01 mol, 1.90 g | C(C)OC1=NS(N=C1OCC)=O | C6H10N2O3S
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-[2-Hydroxy-3-[3-(1-piperidylmethyl)benzyloxy]propylamino]-4-ethoxy-1,2,5-thiadiazole-1-oxide | OC(CNC1=NS(N=C1OCC)=O)COCC1=CC(=CC=C1)CN1CCCCC1 | C20H30N4O4S
